US07214680B2
3′,5′-Dichloroacetophenone
A solution of methyl iodide (4 mL) in anhydrous Et2O (40 mL) was dropped into a suspension of magnesium (1.6 g) in anhydrous Et2O (16 mL) under a Nitrogen atmosphere. At the end of the dropping, benzene (120 mL) was added and the Et2O eliminated with a Nitrogen flux. Then, a solution of 3,5-dichlorobenzonitrile (4 g) in benzene (48 mL) was added and the mixture was heated to reflux for 3 hours. The solution was cooled to 0° C. and a 6N hydrochloric acid solution was added and the mixture was stirred overnight at r.t. Water and Et2O were added and the layers were separated. The organic phase was washed with a saturated sodium hydrogen carbonate solution and brine, dried and concentrated in vacuo. The residue was purified by flash chromatography (CH/AcOEt 95:5) to give the title compound (2.55 g) as an orange oil.

reactant | methyl iodide | 4 mL | CI | CH3I
reactant | magnesium | 1.6 g | [Mg] | Mg
reactant | 3,5-dichlorobenzonitrile | 4 g | ClC=1C=C(C#N)C=C(C1)Cl | C7H3Cl2N
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | Et2O | 40 mL | CCOCC | C4H10O
reactant | Et2O | 16 mL | CCOCC | C4H10O
solvent | benzene | 48 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 120 mL | C1=CC=CC=C1 | C6H6
solvent | Water | O | H2O
product | 3′,5′-Dichloroacetophenone | 2.55 g | ClC=1C=C(C=C(C1)Cl)C(C)=O | C8H6Cl2O
